US09079853B2
1-isobutyl-5-methyl-2-oxoindolin-3-yl benzoate
Was made in an analogous fashion to 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate using 1-isobutyl-5-methylindoline-2,3-dione. 1H-NMR δ 8.12 (d, 2H), 7.59 (t, 1H), 7.47 (t, 2H), 7.27 (s, 1H), 7.14 (d, 1H), 6.87 (d, 1H), 6.18 (s, 1H), 3.55 (m, 2H), 2.30 (s, 3H), 2.19 (m, 1H), 1.01 (dd, 6H).

reactant | 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CC)=O | C18H17NO3
reactant | 1-isobutyl-5-methylindoline-2,3-dione | C(C(C)C)N1C(C(C2=CC(=CC=C12)C)=O)=O | C13H15NO2
product | 1-isobutyl-5-methyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CC(C)C)=O | C20H21NO3
